datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C:21](=[CH:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:63]1=[N+:62]([BH2-:11][H:10])[C:73](C)=[CH:74][CH:65]=[CH:64]1>>C1=CC2=C(C=C1)[S:42](=[O:43])(=[O:44])[C-:21]([CH:20]([H:10])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[S:32]2(=[O:33])=[O:34].C[C:63]1=[N+:62]([BH2:11])[C:73](C)=[CH:74][CH:65]=[CH:64]1 10,11=10,20;20,21=21"
"C1C[CH:10]=[CH:11]C1.C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([CH:10]2CCC[CH+:11]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20"
"C1=CC=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])C=C1.C[C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82]>>C[C:81]([CH:10]([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:62]/[C:11](=[CH:10]/[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11](=[O:12])[O:62]CC)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC[Ge:63](CC)(CC)[CH2:62][CH2:11][H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC[Ge:63](CC)(CC)[CH2:62][CH2+:11].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20"
"C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C[N:49](C)[C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[H:10][Sn:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[N:23]1C.[Sn+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].O=[N+]([O-])C1=CC=C([N:31]=[C:20]([H:10])[S-:21])C=C1 10,11=10,20;20,21=21"
"CC1(C)[O:62][C:91](=[O:92])[C-:10](CC2=CC=C([N+](=O)[O-])C=C2)[C:72](=[O:73])[O:83]1.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>CC1(C)[O:62][C:91](=[O:92])[C:10](CC2=CC=C([N+](=O)[O-])C=C2)([F:20])[C:72](=[O:73])[O:83]1.[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10=20;20,21=21"
"C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.F[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[CH:63]=[CH:64]1.F[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1 10,11=10,20;12=11,12"
